US09301951B2
Intermediate 16c: N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(tetrahydro-2H-pyran-4-yloxy)phenyl)isonicotinamide
Into a 50-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-nitro-5-(tetrahydro-2H-pyran-4-yloxy)phenyl)isonicotinamide (400 mg, 0.76 mmol, 1.00 equiv, 95%) in methanol/dichloromethane (10/5 mL). The solution was treated with Pd/C (400 mg), and stirred under an atmosphere of hydrogen for 2 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 270 mg (68%) of product as a brown oil.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-nitro-5-(tetrahydro-2H-pyran-4-yloxy)phenyl)isonicotinamide | 0.76 mmol, 400 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)OC2CCOCC2)[N+](=O)[O-])=O)C=CC1)(F)F | C25H22F3N3O5
solvent | methanol dichloromethane | 5 mL | CO.ClCCl
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(tetrahydro-2H-pyran-4-yloxy)phenyl)isonicotinamide | 270 mg, 68% | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)OC2CCOCC2)N)=O)C=CC1)(F)F | C25H24F3N3O3
